US04666502
N-(2-ethoxyethyl)-4-methoxy-2-methyl-thiophene-3-amine
To 70 ml (0.245 mol) of sodium bis(2-methoxyethoxy)aluminium hydride (70% solution in toluene) and 30 ml of dry toluene is added dropwise with stirring a solution of 9.4 g (0.041 mol) of N-(4-methoxy-2-methyl-thien-3-yl)-ethoxyacetamide in 125 ml of dry toluene. After the exothermic reaction has subsided, stirring is continued for a further 90 minutes and the reaction solution then cautiously added in small portions at -10° to 100 ml of 20% KOH solution.

reactant | sodium bis(2-methoxyethoxy)aluminium hydride | 0.245 mol, 70 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | N-(4-methoxy-2-methyl-thien-3-yl)-ethoxyacetamide | 0.041 mol, 9.4 g | COC=1C(=C(SC1)C)NC(COCC)=O | C10H15NO3S
reactant | KOH | [OH-].[K+]
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-ethoxyethyl)-4-methoxy-2-methyl-thiophene-3-amine | C(C)OCCNC1=C(SC=C1OC)C | C10H17NO2S
